10
R0102 1 2 12000
R0304 3 4 12000
R0500 5 0 3000
R0607 6 7 1000
Q0704 7 4 8 NPN 0.99 0.5 3.77513e-14 0.025 3.77513e-14 0.025 100
Q0704 7 4 8 NPN 0.99 0.5 3.77513e-14 0.025 3.77513e-14 0.025 100
Q0404 4 4 8 NPN 0.99 0.5 3.77513e-14 0.025 3.77513e-14 0.025 100
Q0209 2 9 0 NPN 0.99 0.5 3.77513e-14 0.025 3.77513e-14 0.025 100
Q0909 9 9 0 NPN 0.99 0.5 3.77513e-14 0.025 3.77513e-14 0.025 100
Q0303 3 3 10 PNP 0.99 0.5 3.77513e-14 0.025 3.77513e-14 0.025 100
Q0503 5 3 10 PNP 0.99 0.5 3.77513e-14 0.025 3.77513e-14 0.025 100
Q0903 9 3 10 PNP 0.99 0.5 3.77513e-14 0.025 3.77513e-14 0.025 100
V0806 8 6 DC 12
V0100 1 0 DC 9
V1000 10 0 DC 12
.TRAN 1 1 TETA 0.55 1